US07790728B2
6-(3-Fluorophenyl)-5-pyridin-4-ylpyrazin-2-amine
An oven dried resealable Schlenk tube was charged with 5-bromo-6-(3-fluorophenyl)pyrazin-2-amine (Preparation 1, 0.3 g, 1.11 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (459 mg, 2.23 mmol), dioxane (35 mL) and a 2M aqueous solution of cesium carbonate (3.3 mL, 6.66 mmol) were added. The Schienk tube was subjected to three cycles of evacuation-backfilling with argon, and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex [PdCl2dppf.DCM] (45 mg, 0.055 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in a 100° C. oil bath. After 20 h, the mixture was cooled, partitioned between water and ethyl acetate, the aqueous phase extracted twice with ethyl acetate the organic layers washed with brine, dried (MgSO4) and evaporated. Flash chromatography (dichloromethane/methanol 98:2 to dichloromethane/methanol 95:5) provided the title compound as a yellowish solid (178 mg, 60%)

reactant | 5-bromo-6-(3-fluorophenyl)pyrazin-2-amine | 1.11 mmol, 0.3 g | BrC=1N=CC(=NC1C1=CC(=CC=C1)F)N | C10H7BrFN3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 2.23 mmol, 459 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | cesium carbonate | 6.66 mmol, 3.3 mL | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane | 0.055 mmol, 45 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 6-(3-Fluorophenyl)-5-pyridin-4-ylpyrazin-2-amine | 178 mg, 60% | FC=1C=C(C=CC1)C1=C(N=CC(=N1)N)C1=CC=NC=C1 | C15H11FN4
